US07511059B2
(E or Z)-Cyano-(3-ethyl-4-oxo-thiazolidin-2-ylidene)-acetic acid allyl ester
A solution of 37.6 ml of cyanoacetic acid allyl ester in 60 ml of dimethylformamide is added to a suspension of 12.8 g of sodium hydride (60%) in 200 ml of dimethylformamide at 0° C. It is stirred for 10 more minutes at 0° C., and then a solution of 28.0 ml of ethyl isothiocyanate in 60 ml of dimethylformamide is added. It is then stirred for 2 more hours at 25° C. Then, a solution of 32 ml of bromoacetyl chloride in 60 ml of dimethylformamide is added at 0° C., and it is stirred for 15 more hours at 25° C. Then, the reaction mixture is poured into saturated sodium bicarbonate solution. It is extracted with ethyl acetate, the organic phase is washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The crude product is purified by column chromatography on silica gel with a mixture that consists of hexane/ethyl acetate. 33.9 g of product is obtained.

reactant | cyanoacetic acid allyl ester | 37.6 ml | C(C=C)OC(CC#N)=O | C6H7NO2
reactant | sodium hydride | 12.8 g | [H-].[Na+]
reactant | ethyl isothiocyanate | 28.0 ml | C(C)N=C=S | C3H5NS
reactant | bromoacetyl chloride | 32 ml | BrCC(=O)Cl | C2H2BrClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Cyano-(3-ethyl-4-oxo-thiazolidin-2-ylidene)-acetic acid allyl ester | 33.9 g | C(C=C)OC(C(=C1SCC(N1CC)=O)C#N)=O | C11H12N2O3S
